US07319101B2
b) 2,3-Dimethoxy-5-(4-methyl-benzoyl)-benzoic acid
To a solution of (3-[1,3]Dioxan-2-yl-4,5-dimethoxy-phenyl)-p-tolyl-methanol (2.13 g, 6.18 mmol) in 75 mL THF, 56 mL 8N H2SO4 was added and the resulting solution was stirred 2 h at 50° C. After addition of 50 mL saturated NaCl-solution the mixture was extracted with EtOAc (3×50 mL). The pooled organic fractions were washed with saturated NaHCO3-solution (50 mL), then saturated NaCl-solution (50 mL) before being dried over MgSO4 and evaporated under reduced pressure to yield the desired product as a colorless oil. This crude product (2 g) was added to a mixture of 45 mL t-BuOH, 24 mL of a 1.25M K2HPO4-solution and 37 mL of a IM KMnO4-solution and stirred 45 min. at 60° C. The mixture was partitioned between 100 mL saturated NaCl-solution and 100 mL CHCl3 and the aqueous phase was extracted with CHCl3 (3×100 mL). The pooled organic fractions were extracted with 2N NaOH-solution (3×100 mL), then the combined aqueous fractions were acidified with conc. HCl and extracted with CHCl3 (4×100 mL). The organic fractions were pooled, dried over MgSO4 and evaporated in vacuo to yield the title compound as a colorless solid.

reactant | (3-[1,3]Dioxan-2-yl-4,5-dimethoxy-phenyl)-p-tolyl-methanol | 6.18 mmol, 2.13 g | O1C(OCCC1)C=1C=C(C=C(C1OC)OC)C(O)C1=CC=C(C=C1)C | C20H24O5
reactant | NaCl | 50 mL | [Na+].[Cl-]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | H2SO4 | 8N, 56 mL | OS(=O)(=O)O | H2O4S
product | 2,3-Dimethoxy-5-(4-methyl-benzoyl)-benzoic acid | COC1=C(C(=O)O)C=C(C=C1OC)C(C1=CC=C(C=C1)C)=O | C17H16O5
